### PR TITLE
[Merged by Bors] - refactor(AlgebraicGeometry): replace `Scheme.Cover` by an `abbrev` for `ZeroHypercover`

### PR DESCRIPTION
**Pull request by chrisflav**
We replace `Scheme.Cover` by an `abbrev` for `Coverage.ZeroHypercover`. The main motivation is to allow for a generalization of `IsLocalAtTarget`, `IsLocalAtSource` etc. to arbitrary coverages. The second motivation is to reduce duplication in the upcoming introduction of categories of analytic spaces (e.g. adic spaces), by generalizing notions of `Cover` to suitable general categories.

Future work: Besides the generalisation of `IsLocalAtTarget`, the content of `AlgebraicGeometry.Cover.Over` and `AlgebraicGeometry.Sites.Small` shall be generalized to general coverages instead of the coverage induced by a morphism property.

---

- [x] depends on: #28778 
- [x] depends on: #29065 
- [x] depends on: #29467 
- [x] depends on: #29472 
- [x] depends on: #29803 
- [x] depends on: #29894 

This PR will be split in more reviewable pieces when agreement is reached on the general direction this PR is taking.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Cover/Open.lean [hunk 1]
```diff
@@ -237,7 +245,7 @@ lemma isNilpotent_of_isNilpotent_cover {X : Scheme.{u}} {U : X.Opens} (s : Γ(X,
     IsNilpotent s := by
   choose fn hfn using h
   have : Fintype 𝒰.I₀ := Fintype.ofFinite 𝒰.I₀
-  /- the maximum of all `fn i` (exists, because `𝒰.I₀` is finite) -/
+  /- the maximum of all `fn i` (exists, because `𝒰.J` is finite) -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Cover/Open.lean]:
```suggestion
  /- the maximum of all `fn i` (exists, because `𝒰.I₀` is finite) -/
```

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 2]
```diff
@@ -409,7 +410,7 @@ instance : IsIso 𝒰.fromGlued :=
     apply PresheafedSpace.IsOpenImmersion.to_iso
   isIso_of_reflects_iso _ F
 
-/-- Given an open cover of `X`, and a morphism `𝒰.X x ⟶ Y` for each open subscheme in the cover,
+/-- Given an open cover of `X`, and a morphism `𝒰.obj x ⟶ Y` for each open subscheme in the cover,
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Gluing.lean]:
```suggestion
/-- Given an open cover of `X`, and a morphism `𝒰.X x ⟶ Y` for each open subscheme in the cover,
```

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by chrisflav** [comment]
Thanks @joelriou for all the quick reviews on this refactor!
